### PR TITLE
feat: interplay of posPart, negPart, untop₀, min and max

### PR DESCRIPTION
**Pull request by kebekus**
Add a host of elementary (but somewhat delicate) lemmas on the interplay of posPart, negPart, untop₀, min, and max.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane. It will be used in follow-up PRs to compare pole- and zero-divisors attached to meromorphic functions on the complex plane, and their behavior under algebraic manipulations of the functions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Group/PosPart.lean [hunk 1]
```diff
@@ -240,6 +243,28 @@ variable [MulRightMono α]
...
+section commutativeGroupCovariantmul
+variable [CommGroup α] [MulLeftMono α]
+
+@[to_additive]
+theorem leOnePart_min (a b : α) :
+    (min a b)⁻ᵐ = max a⁻ᵐ b⁻ᵐ := by
+  rcases lt_trichotomy a b with h | h | h
+  · rw [min_eq_left h.le, max_comm, max_eq_right ((le_iff_oneLePart_leOnePart a b).1 h.le).2]
+  · simp_all
+  · rw [min_comm, min_eq_left h.le, max_eq_right ((le_iff_oneLePart_leOnePart b a).1 h.le).2]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/PosPart.lean]: Why do you case on strict inequalities even though you don't need it?
```suggestion
  rcases le_total a b with h | h
  · rw [min_eq_left h, max_comm, max_eq_right ((le_iff_oneLePart_leOnePart a b).1 h).2]
  · rw [min_eq_right h, max_eq_right ((le_iff_oneLePart_leOnePart b a).1 h).2]
```

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 2]
```diff
@@ -65,6 +65,15 @@ lemma untopD_add [Add α] {a b : WithTop α} {c : α} (ha : a ≠ ⊤) (hb : b 
...
     (a + b).untop₀ = a.untop₀ + b.untop₀ := untopD_add ha hb
 
+@[simp]
+lemma untop₀_neg [AddCommGroup α] (a : WithTop α) :
+    (-a).untop₀ = -a.untop₀ := by
+  cases a with
+  | top => simp
+  | coe a =>
+    rw [← LinearOrderedAddCommGroup.coe_neg, untop₀_coe]
+    simp
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean]: Destructing a variable at the start of a proof is a common enough that there is notation for it:
```suggestion
lemma untop₀_neg [AddCommGroup α] : \forall a : WithTop α,
    (-a).untop₀ = -a.untop₀
  | \top => simp
  | (a : α) =>
    rw [← LinearOrderedAddCommGroup.coe_neg, untop₀_coe]
    simp
```

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 3]
```diff
@@ -77,27 +86,76 @@ lemma untop₀_mul [DecidableEq α] [MulZeroClass α] (a b : WithTop α) :
...
+  lift a to α using ha
+  by_cases hb : b = ⊤
+  · simp_all
+  lift b to α using hb
+  simp_all
+
+@[simp]
+theorem untop₀_le_untop₀_of_le {a b : WithTop α}
+    (hb : b ≠ ⊤) (h : a ≤ b) :
+    a.untop₀ ≤ b.untop₀ := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean]:
```suggestion
@[simp, gcongr]
theorem untop₀_le_untop₀_of_le {a b : WithTop α}
    (hb : b ≠ ⊤) (h : a ≤ b) :
    a.untop₀ ≤ b.untop₀ := by
```

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 4]
```diff
@@ -77,27 +86,76 @@ lemma untop₀_mul [DecidableEq α] [MulZeroClass α] (a b : WithTop α) :
...
+lemma untop₀_nonneg {a : WithTop α} :
     0 ≤ a.untop₀ ↔ 0 ≤ a := by
   cases a with
   | top => tauto
   | coe a => simp
 
+@[simp]
+theorem le_of_untop₀_le_untop₀ {a b : WithTop α}
+    (ha : a ≠ ⊤) (h : a.untop₀ ≤ b.untop₀) :
+    a ≤ b := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean]: This looks like a dangerous simp lemma since the conclusion is so generic, eg it could try to recursively prove `a <= b` from `a.untop0 <= b.untop0` from `a.untop0.untop0 <= b.untop0.untop0` from ...

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 5]
```diff
@@ -77,27 +86,76 @@ lemma untop₀_mul [DecidableEq α] [MulZeroClass α] (a b : WithTop α) :
...
+
+@[simp]
+theorem untop₀_le_untop₀_of_le {a b : WithTop α}
+    (hb : b ≠ ⊤) (h : a ≤ b) :
+    a.untop₀ ≤ b.untop₀ := by
+  lift b to α using hb
+  by_cases ha : a = ⊤
+  · simp_all
+  lift a to α using ha
+  simp_all
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean]: Can we have the iff, assuming it doesn't exist already?

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 6]
```diff
@@ -77,27 +86,76 @@ lemma untop₀_mul [DecidableEq α] [MulZeroClass α] (a b : WithTop α) :
 ## Simplifying Lemmas in cases where α is a OrderedAddCommGroup
 -/
 
+section orderedAddCommGroup
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean]:
```suggestion
section OrderedAddCommGroup
```
is the usual style. Same below

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 7]
```diff
@@ -77,27 +86,76 @@ lemma untop₀_mul [DecidableEq α] [MulZeroClass α] (a b : WithTop α) :
...
+theorem untop₀_max {a b : WithTop α}
+    (ha : a ≠ ⊤) (hb : b ≠ ⊤) :
+    (max a b).untop₀ = max a.untop₀ b.untop₀ := by
+  lift a to α using ha
+  lift b to α using hb
+  simp only [untop₀_coe]
+  by_cases h : a ≤ b
+  · simp [max_eq_right h, max_eq_right (coe_le_coe.mpr h)]
+  rw [not_le] at h
+  simp [max_eq_left h.le, max_eq_left (coe_lt_coe.mpr h).le]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean:131]: This proof looks too complicated. You shouldn't have to case on whether `a <= b`. Does something like this work?
```suggestion
  norm_cast
  simp
```

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 8]
```diff
@@ -322,13 +324,65 @@ instance [Lattice Y] [Zero Y] : Lattice (locallyFinsuppWithin U Y) where
   inf_le_right D₁ D₂ := fun x ↦ by simp
   le_inf D₁ D₂ D₃ h₁₃ h₂₃ := fun x ↦ by simp [h₁₃ x, h₂₃ x]
 
+lemma posPart_apply [AddCommGroup Y] [LinearOrder Y] (a : locallyFinsuppWithin U Y) (x : X) :
+    a⁺ x = (a x)⁺ := rfl
+
+lemma negPart_apply [AddCommGroup Y] [LinearOrder Y] (a : locallyFinsuppWithin U Y) (x : X) :
+    a⁻ x = (a x)⁻ := rfl
```
Comment (YaelDillies) [inline Mathlib/Topology/LocallyFinsupp.lean:333]: These should be simp

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 9]
```diff
@@ -322,13 +324,65 @@ instance [Lattice Y] [Zero Y] : Lattice (locallyFinsuppWithin U Y) where
...
   add_le_add_left := fun _ _ _ _ ↦ by simpa [le_def]
 
+/--
+The negative part of a minimum is the maximum of the negative parts.
+-/
+theorem negPart_min [AddCommGroup Y] [LinearOrder Y] [IsOrderedAddMonoid Y]
+    (a b : locallyFinsuppWithin U Y) :
+    (min a b)⁻ = max a⁻ b⁻ := by
+  ext x
+  apply _root_.negPart_min
```
Comment (YaelDillies) [inline Mathlib/Topology/LocallyFinsupp.lean]: Why does this not work?
```suggestion
/--
The negative part of a minimum is the maximum of the negative parts.
-/
theorem negPart_min [AddCommGroup Y] [LinearOrder Y] [IsOrderedAddMonoid Y]
    (a b : locallyFinsuppWithin U Y) :
    (min a b)⁻ = max a⁻ b⁻ := _root_.negPart_min
```
Are your assumptions on `_root_.negPart_min` too strong?

File: Mathlib/Algebra/Order/Group/PosPart.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/Group/PosPart.lean]: My incompetence, I guess.

Implemented as suggested. Thanks!

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Implemented, but I had to add "by …" in two places to make it work.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Implemented as suggested … though I am unsure what 'gcongr' actually does.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Roger. Removed the 'simp'

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: I do not think so.

The converse of le_of_untop₀_le_untop₀ is not true. Example a = 100, b = \top.

The converse of untop₀_le_untop₀_of_le is not true. Example a = \top, b = 100.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 6 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Fixed as suggested.

File: Mathlib/Algebra/Order/Group/PosPart.lean [hunk 10]
```diff
@@ -240,6 +243,26 @@ variable [MulRightMono α]
...
+end group
+
+section commutativeGroupCovariantmul
+variable [CommGroup α] [MulLeftMono α]
+
+@[to_additive]
+theorem leOnePart_min (a b : α) :
+    (min a b)⁻ᵐ = max a⁻ᵐ b⁻ᵐ := by
+  rcases le_total a b with h | h
+  · rw [min_eq_left h, max_comm, max_eq_right ((le_iff_oneLePart_leOnePart a b).1 h).2]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/PosPart.lean]:
```suggestion
  · rw [min_eq_left h, max_eq_left ((le_iff_oneLePart_leOnePart a b).1 h).2]
```

**Review by YaelDillies — COMMENTED** [review]
It looks like you should try generalising all your lemmas away from linear orders. That way, you won't need any lemma specific to `locallyFinsuppWithin`.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 7 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean:131]: It does. In fact, norm_cast does the job. I do not even need the simp. Thanks!

File: Mathlib/Topology/LocallyFinsupp.lean (hunk 8 above)
Comment (kebekus) [reply Mathlib/Topology/LocallyFinsupp.lean:333]: Added 'simp'.

File: Mathlib/Topology/LocallyFinsupp.lean (hunk 9 above)
Comment (kebekus) [reply Mathlib/Topology/LocallyFinsupp.lean]: It does not work because there is no linear ordering on `locallyFinsuppWithin U Y`, there is only a partial ordering. 

- In general `negPart_min` cannot even be stated if you only have a partial ordering; you need a lattice structure to use the words `min` and `max`.

- Even if you have a lattice structure, I guess the theorem will be wrong in general. What makes it work in this case is the extensionality property: the type `locallyFinsuppWithin` is fun-like, and I can check my goal pointwise. However, once I say `ext x`, I am dealing with elements of the type `Y`, which is linearly ordered.

Bottom line: I believe the assumptions on `_root_.negPart_min` are right. It's the special situation of  `locallyFinsuppWithin U Y` that makes things work here.

**Comment by kebekus** [comment]
> It looks like you should try generalising all your lemmas away from linear orders. That way, you won't need any lemma specific to `locallyFinsuppWithin`.

Thank you for this extremely prompt and helpful review.

Initially, I shared your feeling that lemmas specific to `locallyFinsuppWithin` look wrong. I tried to come up with a better formulation, but failed. As pointed out above, the lemma is not really specific to `locallyFinsuppWithin` would work with types that…

… are partially ordered commutative groups with lattice structure and monotone addition
… have extensionality in the sense that they are really functions into a linearly ordered commutative group
… partial ordering, group structure and lattice structure come from the structures on the target group, in the sense that all definitions are "pointwise".

Pondering on these requirements, I found that the setup is rather special after all. Perhaps worse, I found that my knowledge of Lean4 wasn't even enough to formulate what I wanted to say. After trying for a while, I gave up and submitted the PR that you are currently seeing.

**Comment by YaelDillies** [comment]
Do you know about lattice ordered groups? They are lattices that are also groups in an order-preserving manner. I believe they are the correct generality here, but of course it is hard to be sure without having proved it.

**Comment by kebekus** [comment]
> Do you know about lattice ordered groups? They are lattices that are also groups in an order-preserving manner. I believe they are the correct generality here, but of course it is hard to be sure without having proved it.

Will think about this and come back to you, probably on Monday.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 11]
```diff
@@ -52,7 +52,7 @@ lemma coe_untop₀_of_ne_top {a : WithTop α} (ha : a ≠ ⊤) :
 end Zero
 
 /-!
-## Simplifying Lemmas in cases where α is an AddMonoid
+## Simplifying Lemmas in cases where α is an AddMonoid or AddGroup
```
Comment (grunweg) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean]: An `AddGroup` is an `AddMonoid`, right --- so this would seem redundant. Can you say why you prefer to add this?

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 12]
```diff
@@ -77,27 +84,71 @@ lemma untop₀_mul [DecidableEq α] [MulZeroClass α] (a b : WithTop α) :
 ## Simplifying Lemmas in cases where α is a OrderedAddCommGroup
 -/
 
+section OrderedAddCommGroup
+
+variable
+  [AddCommGroup α] [PartialOrder α]
```
Comment (grunweg) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean]: How about doing this
```suggestion
variable [AddCommGroup α] [PartialOrder α] {a b : WithTop α}
```
and then re-using a and b below?

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 13]
```diff
@@ -77,27 +84,71 @@ lemma untop₀_mul [DecidableEq α] [MulZeroClass α] (a b : WithTop α) :
...
+
 /--
 Elements of ordered additive commutative groups are nonnegative iff their untop₀ is nonnegative.
 -/
 @[simp]
-lemma untop₀_nonneg [AddCommGroup α] [PartialOrder α] {a : WithTop α} :
+lemma untop₀_nonneg {a : WithTop α} :
```
Comment (grunweg) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean]: Then, the conclusion could move on this line

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 14]
```diff
@@ -77,27 +84,71 @@ lemma untop₀_mul [DecidableEq α] [MulZeroClass α] (a b : WithTop α) :
...
     0 ≤ a.untop₀ ↔ 0 ≤ a := by
   cases a with
   | top => tauto
   | coe a => simp
 
+theorem le_of_untop₀_le_untop₀ {a b : WithTop α}
```
Comment (grunweg) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean]: And this could be one line (or perhaps two)

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 15]
```diff
@@ -77,27 +84,71 @@ lemma untop₀_mul [DecidableEq α] [MulZeroClass α] (a b : WithTop α) :
...
+    (ha : a ≠ ⊤) (h : a.untop₀ ≤ b.untop₀) :
+    a ≤ b := by
+  lift a to α using ha
+  by_cases hb : b = ⊤
+  · simp_all
+  lift b to α using hb
+  simp_all
+
+@[simp, gcongr]
+theorem untop₀_le_untop₀_of_le {a b : WithTop α}
```
Comment (grunweg) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean]: Similarly here

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 16]
```diff
@@ -77,27 +84,71 @@ lemma untop₀_mul [DecidableEq α] [MulZeroClass α] (a b : WithTop α) :
...
   cases a with
   | top => tauto
   | coe a => simp
 
+theorem le_of_untop₀_le_untop₀ {a b : WithTop α}
+    (ha : a ≠ ⊤) (h : a.untop₀ ≤ b.untop₀) :
+    a ≤ b := by
+  lift a to α using ha
+  by_cases hb : b = ⊤
+  · simp_all
```
Comment (grunweg) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean:102]: Does `finiteness` also work? (Or plain `simp`? I would think this uses neither `ha` nor `h`.)

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 17]
```diff
@@ -77,27 +84,71 @@ lemma untop₀_mul [DecidableEq α] [MulZeroClass α] (a b : WithTop α) :
...
+  lift b to α using hb
+  simp_all
+
+@[simp, gcongr]
+theorem untop₀_le_untop₀_of_le {a b : WithTop α}
+    (hb : b ≠ ⊤) (h : a ≤ b) :
+    a.untop₀ ≤ b.untop₀ := by
+  lift b to α using hb
+  by_cases ha : a = ⊤
+  · simp_all
```
Comment (grunweg) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean:109]: Same question as above

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 18]
```diff
@@ -77,27 +84,71 @@ lemma untop₀_mul [DecidableEq α] [MulZeroClass α] (a b : WithTop α) :
...
+
+end OrderedAddCommGroup
+
 /-!
 ## Simplifying Lemmas in cases where α is a LinearOrderedAddCommGroup
 -/
 
+section LinearOrderedAddCommGroup
+
+variable
```
Comment (grunweg) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean]: Can you do something analogous to my comments above, including adding `a` and `b` to the variables here?

**Review by grunweg — COMMENTED** [review]
Some minor comments on the algebra parts of this PR.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 16 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean:102]: It uses `hb`, but you could use `obtain rfl | hb := eq_or_ne b \top` instead of `by_cases`

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 12 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Immplemented as suggested.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 13 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Immplemented as suggested.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 14 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Immplemented as suggested.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 15 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Immplemented as suggested.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 16 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean:102]: I am unable to get finiteness to work. Yael's suggestion works, but it seems more verbose than what we're having at present. I'm not sure how I should proceed. Please advise.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 17 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean:109]: See above. Please advise.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 18 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Implemented as suggested.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 11 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Clarified the docstring.

**Comment by kebekus** [comment]
> It looks like you should try generalising all your lemmas away from linear orders. That way, you won't need any lemma specific to `locallyFinsuppWithin`.

@YaelDillies Dear Yael, I took a look, and it seems you are mostly right. The theorem `leOnePart_min` works for lattice ordered groups. The theorem for the maximum works for lattice ordered groups if the lattice is distributive. I tried to update the files accordingly, but now the CI reports strange error messages from parts of the library I have never encountered before.

Experience tells me that trying to clean up the mess will make matters worse. If you agree that this is a good way to proceed, I will close this PR tonight or tomorrow and open one (or several) new ones. OK?

**Comment by YaelDillies** [comment]
Great! although I don't see the point of closing the current PR. Instead, I would move changes from it to new PRs until the (very!) weird errors disappear from this one.

**Comment by kebekus** [comment]
> Great! although I don't see the point of closing the current PR. Instead, I would move changes from it to new PRs until the (very!) weird errors disappear from this one.

@YaelDillies I opened a new PR #30774 and found to my surprise that the identical change set compiles just fine in the new PR. Since debugging this PR will probably take a lot of time, I will close it instead and would like to suggest continuing the discussion in PR #30774. See you there!
